US06632810B2
Synthesis of 2-chloromethyl-5,6,7-trimethoxyquinoline:
Thionyl chloride (1.7 mL) was added to a solution of 2-hydroxymethyl-5,6,7-trimethoxyquinoline (1.45 g) in dichloromethane (15 mL) under ice cooling, and the mixture was stirred at room temperature for 30 minutes. After concentrating the reaction mixture under reduced pressure, an aqueous solution of potassium carbonate was added to the residue to alkalify it. The thus-treated residue was extracted with diethyl ether. The resultant organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:2) to obtain the title compound.

reactant | Thionyl chloride | 1.7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-5,6,7-trimethoxyquinoline | 1.45 g | OCC1=NC2=CC(=C(C(=C2C=C1)OC)OC)OC | C13H15NO4
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-chloromethyl-5,6,7-trimethoxyquinoline | ClCC1=NC2=CC(=C(C(=C2C=C1)OC)OC)OC | C13H14ClNO3
